US07122580B2
3-Biphenyl-4-yl-(2S)-(5-bromo-2-hydroxy-benzoylamino)-propionic acid methyl ester (2.75 g, 35%) was prepared from (2S)-amino-3-biphenyl-4-yl-propionic acid methyl ester-hydrochloride (5.0 g, 17.2 mmol), 5-bromo-2-hydroxy-benzoic acid (3.7 g, 17.2 mmol) as described in general procedure A except for an adapted work-up. After reaction completion, the reaction mixture was poured onto 150 mL of 1N HCl and 150 mL of EtOAc. The organic layer was washed with 1N HCl, saturated sodium bicarbonate, dried over sodium sulfate and evaporated. The crude material was purified over silica gel (7:3, DCM-hexanes).

reactant | (2S)-amino-3-biphenyl-4-yl-propionic acid methyl ester-hydrochloride | 17.2 mmol, 5.0 g | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O
reactant | 5-bromo-2-hydroxy-benzoic acid | 17.2 mmol, 3.7 g | BrC=1C=CC(=C(C(=O)O)C1)O | C7H5BrO3
reactant | HCl | 1N, 150 mL | Cl | ClH
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 3-Biphenyl-4-yl-(2S)-(5-bromo-2-hydroxy-benzoylamino)-propionic acid methyl ester | 2.75 g, 35% | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)O)=O)=O | C23H20BrNO4
